US06077953
A half gram (0.5 g) of 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-6-ethoxycarbonyl-4-methyl-5-trifluoromethylpyridazin-3-one (the present compound 1-27) and 1.5 ml of a mixture of sulfuric acid and water (v/v=1/1) were mixed and heated for 5 hours on a 130° C. oil bath. The reaction solution was cooled to room temperature, allowed to stand at the same temperature overnight, and further heated for 8 hours on a 130° C. oil bath. The reaction solution was cooled to room temperature and poured into 50 ml of water. The precipitated crystals were filtered off, dissolved with 100 ml of ethyl acetate, dried over anhydrous magnesium sulfate and treated with active charcoal. The solvent was removed under reduced pressure to afford 0.21 g of 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-methyl-5-trifluoromethylpyridazin-3-one (yield:51%).

reactant | 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-6-ethoxycarbonyl-4-methyl-5-trifluoromethylpyridazin-3-one | 0.5 g | ClC1=CC(=C(C=C1O)N1N=C(C(=C(C1=O)C)C(F)(F)F)C(=O)OCC)F | C15H11ClF4N2O4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 50 ml | O | H2O
product | 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-methyl-5-trifluoromethylpyridazin-3-one | 0.21 g, yield:51% | ClC1=CC(=C(C=C1O)N1N=CC(=C(C1=O)C)C(F)(F)F)F | C12H7ClF4N2O2
